US07173031B2
B) 4,5-Dichloropyrrolo[2,1-f][1,2,4]triazine
To a solution of 5-chloropyrrolo[2,1-f][1,2,4]triazin-4 (3H)-one (5.00 g, 29.5 mmol) in toluene (100 mL) at rt under nitrogen was added diisopropylethylamine (5.14 mL, 29.5 mmol) followed by phosphorus(III) oxychloride (8.25 mL, 88.5 mmol). The mixture was heated at 100° C. for 20 h and was then cooled to rt. The reaction was slowly added to saturated aqueous sodium bicarbonate solution (500 mL) at 0° C. After the addition was complete, the mixture was stirred at rt for 30 min. The aqueous phase was extracted with ethyl acetate (3×500 mL), dried over anhydrous MgSO4, and concentrated in vacuo to give the crude product (3.73 g, 67%) as a yellow solid which was used without further purification. 1H NMR (CDCl3) δ 8.03 (s, 1H), 7.70 (d, 1H, J=2.8 Hz), 6.84 (d, 1H, J=2.8 Hz); MS(ESI+) m/z 188.1 (M+H)+.

reactant | 5-chloropyrrolo[2,1-f][1,2,4]triazin-4 (3H)-one | 29.5 mmol, 5.00 g | ClC=1C=CN2N=CNC(C21)=O | C6H4ClN3O
reactant | diisopropylethylamine | 29.5 mmol, 5.14 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | phosphorus(III) oxychloride | 88.5 mmol, 8.25 mL | O(Cl)Cl.[P+3]
reactant | sodium bicarbonate | 500 mL | C([O-])(O)=O.[Na+]
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 4,5-Dichloropyrrolo[2,1-f][1,2,4]triazine | 3.73 g, 67% | ClC1=NC=NN2C1=C(C=C2)Cl | C6H3Cl2N3
